US07300907B2
5-Chloro-2-(4-chloro-3-ethoxy-2-fluorophenyl)-6-methane-sulfonylpyrimidine-4-carboxylic acid methyl ester (350 mg, 0.83 mmol) was dissolved in 10 mL p-dioxane and 7N ammonia in methanol (0.43 mL, 3 mmol) was added. The reaction mixture was stirred at room temperature for 3 hours and then concentrated. The residue was partitioned between ethyl acetate and water and the organic phase was dried and concentrated. The product was purified by column chromatography to yield 6-amino-5-chloro-2-(4-chloro-3-ethoxy-2-fluorophenyl)-pyrimidine-4-carboxylic acid methyl ester (160 mg, 54% yield): 1H NMR (CDCl3): δ 7.65 (dd, 1H), 7.24 (dd, 1H), 5.67 (br s, 2H), 4.22 (q, 2H), 4.03 (s, 3H), 1.46 (t, 3H).

reactant | 5-Chloro-2-(4-chloro-3-ethoxy-2-fluorophenyl)-6-methane-sulfonylpyrimidine-4-carboxylic acid methyl ester | 0.83 mmol, 350 mg | COC(=O)C1=NC(=NC(=C1Cl)S(=O)(=O)C)C1=C(C(=C(C=C1)Cl)OCC)F | C15H13Cl2FN2O5S
reactant | ammonia | 7N | N | H3N
reactant | methanol | 3 mmol, 0.43 mL | CO | CH4O
solvent | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-amino-5-chloro-2-(4-chloro-3-ethoxy-2-fluorophenyl)-pyrimidine-4-carboxylic acid methyl ester | 160 mg, 54% yield | COC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C(=C(C=C1)Cl)OCC)F | C14H12Cl2FN3O3
